US04501699
When maggiemycin was refluxed with p-toluene sulfonic acid in benzene for 4 hours, anhydromaggiemycin, at a yield of 84%, was obtained that was identical to the natural product in all physicochemical properties. The preparation of these compounds is summarized in FIG. 10.

reactant | maggiemycin | CCC1(CC(=O)C2=C(C(=C3C(=C2O)C(=O)C4=C(C=CC=C4O)C3=O)O)C1C(=O)OC)O | C22H18O9
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | anhydromaggiemycin | yield of 84% | CCC=1C=C(C2=C(C1C(=O)OC)C(=C3C(=C2O)C(=O)C4=C(C=CC=C4O)C3=O)O)O | C22H16O8
